US09284331B2
Step 2: 9-(2-bromoacetyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione.
111-2. A solution of 9-(1-ethoxyvinyl)-3,4,7,8-tetrahydro -[1,4]diazepino[7,1-a]isoquinoline-2,5-dione (1.2 g, 4.02 mmol) in a mixture of THF/H2O (3:1, 40 mL) was treated with NBS (716 mg, 4.02 mmol) and the mixture was stirred at 0° C. for 10 min. The mixture was partioned between AcOEt and brine and the org. phase was separated, dried over Na2SO4, filtered and concentrated in vacuo to give the title compound (880 mg) that was used as it is in the next step. UPLC-MS: MS 349.0 (M+H+); UPLC rt 0.69 min.

reactant | 9-(1-ethoxyvinyl)-3,4,7,8-tetrahydro -[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 4.02 mmol, 1.2 g | C(C)OC(=C)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C17H18N2O3
reactant | NBS | 4.02 mmol, 716 mg | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | AcOEt | CCOC(=O)C | C4H8O2
solvent | THF H2O | 40 mL | C1CCOC1.O
solvent | brine | [Cl-].[Na+].O
product | 9-(2-bromoacetyl)-3,4,7,8-tetrahydro-[1,4]diazepino[7,1-a]isoquinoline-2,5-dione | 880 mg | BrCC(=O)C1=C2CCN3C(C2=CC=C1)=CC(NCC3=O)=O | C15H13BrN2O3
